US06130217
7-Hydroxybenzothiazole
The title compound was prepared as a mixture (60/40) with the 5-hydroxy isomer in the deprotection of 2-carbamoyl-7-methoxybenzothiazole (obtained in Preparation 4 below) with pyridine.HCl, according to the method described in Preparation 1. The mixture of the 5- and 7-hydroxybenzothiazoles was used directly in the preparation of the isomeric glycidyl ethers which were readily separable by chromatography on silica (2% CH3CN/CH2Cl2).

reactant | 2-carbamoyl-7-methoxybenzothiazole | C(N)(=O)C=1SC2=C(N1)C=CC=C2OC | C9H8N2O2S
reactant | HCl | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7-Hydroxybenzothiazole | OC1=CC=CC=2N=CSC21 | C7H5NOS
